US04859669
Preparation of 1,2,3,5-tetrahydro-1,5-diphenyl-4H-pyrrolo[3,2-c][1,8]napthyridin-4-one
This procedure will also produce 1,2,3,5-tetrahydro-1-(4-methoxyphenyl)-5-phenyl-4H-pyrrolo [3,2-c][1,8]naphthyridin-4-one when 4-methoxyaniline (also known as p-anisidine) is substituted for aniline.

reactant | 1,2,3,5-tetrahydro-1-(4-methoxyphenyl)-5-phenyl-4H-pyrrolo [3,2-c][1,8]naphthyridin-4-one | COC1=CC=C(C=C1)N1CCC=2C(N(C=3N=CC=CC3C21)C2=CC=CC=C2)=O | C23H19N3O2
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 1,2,3,5-tetrahydro-1,5-diphenyl-4H-pyrrolo[3,2-c][1,8]napthyridin-4-one | C1(=CC=CC=C1)N1CCC=2C(N(C=3N=CC=CC3C21)C2=CC=CC=C2)=O | C22H17N3O
